US07932282B2
A mixture of crude 3-methyl-2-oxo-1-(2-pyridinylmethyl)-4-imidazolidinecarboxylic acid (˜0.7 mmol), 1-hydroxybenzotriazole hydrate (113 mg, 0.84 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (161 mg, 0.84 mmol), and N-ethyl morpholine (0.27 ml, 2.1 mmol) in dichloromethane (20 ml)/N,N-dimethylformamide (2 ml) was stirred at room temperature for 10 minutes. A solution of [(2-chloro-3,4-difluorophenyl)methyl]amine (150 mg, 0.84 mmol) in dichloromethane (5 ml) was added and the reaction stirred at room temperature for 18 hours. The mixture was diluted with dichloromethane and the solution was washed with saturated sodium hydrogen carbonate solution, water and brine, dried and evaporated. The residue was purified by silica gel chromatography eluting with 0-10% methanol in dichloromethane. The residue was triturated with ether/hexanes and the solid was dried. The residue was dissolved in dichloromethane (2 ml), hydrogen chloride (1M in ether, 0.1 ml) was added and the solvent was evaporated. The solid was co-evaporated with ethyl acetate and ether and then triturated with ether. The solid was collected and dried to give N-[(2-chloro-3,4-difluorophenyl)methyl]-3-methyl-2-oxo-1-(2-pyridinylmethyl)-4-imidazolidinecarboxamide hydrochloride (40 mg). LC/MS [M+H]+=395, retention time=1.85 minutes.

reactant | 3-methyl-2-oxo-1-(2-pyridinylmethyl)-4-imidazolidinecarboxylic acid | ˜0.7 mmol | CN1C(N(CC1C(=O)O)CC1=NC=CC=C1)=O | C11H13N3O3
reactant | 1-hydroxybenzotriazole hydrate | 0.84 mmol, 113 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.84 mmol, 161 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-ethyl morpholine | 2.1 mmol, 0.27 ml | C(C)N1CCOCC1 | C6H13NO
reactant | [(2-chloro-3,4-difluorophenyl)methyl]amine | 0.84 mmol, 150 mg | ClC1=C(C=CC(=C1F)F)CN | C7H6ClF2N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[(2-chloro-3,4-difluorophenyl)methyl]-3-methyl-2-oxo-1-(2-pyridinylmethyl)-4-imidazolidinecarboxamide hydrochloride | 40 mg | Cl.ClC1=C(C=CC(=C1F)F)CNC(=O)C1N(C(N(C1)CC1=NC=CC=C1)=O)C | InChI=1S/C18H17ClF2N4O2.ClH/c1-24-14(10-25(18(24)27)9-12-4-2-3-7-22-12)17(26)23-8-11-5-6-13(20)16(21)15(11)19;/h2-7,14H,8-10H2,1H3,(H,23,26);1H
